US04440785
4-Phenylindolin-2-one
A stirring solution of 3.5 g. (0.014 mole) of 4-phenyl-3-methylthioindolin-2-one in 75 ml. of tetrahydrofuran was treated portionwise with 20 g. of a commercial Raney nickel/water suspension. The mixture was filtered through Celite and the filtrate was concentrated to give a yellow solid. The solid was recrystallized to give a yellow solid. This solid was recrystallized from benzene to yield 1.6 g. (57%) of product as an off-white solid. An analytical sample was prepared from isopropanol; m.p. 192-194° C.

reactant | 4-phenyl-3-methylthioindolin-2-one | 0.014 mole | C1(=CC=CC=C1)C1=C2C(C(NC2=CC=C1)=O)SC | C15H13NOS
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | Raney nickel water | [Ni].O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-Phenylindolin-2-one | C1(=CC=CC=C1)C1=C2CC(NC2=CC=C1)=O | C14H11NO
